US07122558B2
Preparation of (3R)-3-(2-Hydroxy-2-thien-2-ylpent-4-enoyloxy)-1-(3-phenoxypropyl)-1-azoniabicyclo[2.2.2]octane bromide
250 mg (0.81 mmol) of 2-Hydroxy-2-thien-2-ylpent-4-enoic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester, Intermediate I-3, were dissolved In 5 ml of acetonitrile and 7.5 ml of chloroform. To this solution were added 0.63 ml (4.1 mmol) of phenoxypropylbromide. After stirring for 48 h at room temperature under a N2 atmosphere, solvents were evaporated. Ether was added and the mixture stirred. The solid obtained was filtered and washed several times with ether. The yield was 0.3 g (71%) of the title compound as a mixture of diastereomers; mp: 157° C.

reactant | 2-Hydroxy-2-thien-2-ylpent-4-enoic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester | 0.81 mmol, 250 mg | N12C[C@@H](C(CC1)CC2)OC(C(CC=C)(C=2SC=CC2)O)=O | C16H21NO3S
reactant | phenoxypropylbromide | 4.1 mmol, 0.63 ml | O(C1=CC=CC=C1)CCCBr | C9H11BrO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | chloroform | 7.5 ml | C(Cl)(Cl)Cl | CHCl3
product | (3R)-3-(2-Hydroxy-2-thien-2-ylpent-4-enoyloxy)-1-(3-phenoxypropyl)-1-azoniabicyclo[2.2.2]octane bromide | [Br-].OC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CCCOC2=CC=CC=C2)(CC=C)C=2SC=CC2 | InChI=1S/C25H32NO4S.BrH/c1-2-13-25(28,23-10-6-18-31-23)24(27)30-22-19-26(15-11-20(22)12-16-26)14-7-17-29-21-8-4-3-5-9-21;/h2-6,8-10,18,20,22,28H,1,7,11-17,19H2;1H/q+1;/p-1/t20?,22-,25?,26?;/m0./s1
